US06306860B1
Preparation of 6-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester
6-[1-(3-amino-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid methyl ester (5 g) was added to methanol (100 ml) and with the addition of acetic acid (4 ml) and acetaldehyde (1.2 ml) at 5° C.˜10° C., the mixture was stirred for 30 minutes. With the addition of sodium cyanoborohyride (1 g), the mixture was stirred at 15° C. for 2 hours. Sodium cyanoborohydride (1 g) was added again, and the mixture was further stirred for 1 hour. Water (50 ml) and 3N-sodium hydroxide solution were added to the mixture for neutralization (pH 7.5) and then, methanol was concentrated under reduced pressure. After the mixture was extracted with chloroform, the separated organic layer was concentrated under reduced pressure. The residue was treated with ether for crystallization and recrystallized with ethyl acetate and hexane. The product was filtered and dried to give a desired compound of 4.1 g (yield: 76%).

reactant | 6-[1-(3-amino-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid methyl ester | 5 g | COC(C1=CN=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1N)=O | C17H19N5O3
reactant | acetaldehyde | 1.2 ml | C(C)=O | C2H4O
reactant | sodium | [Na] | Na
reactant | Sodium cyanoborohydride | 1 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Water | 50 ml | O | H2O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
product | 6-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester | yield: 76% | COC(C1=CN=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NCC)=O | C19H23N5O3
